US07569727B2
Preparation of (4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-isoxazol-3-yl-methanone O-ethyl-oxime
486 mg of (4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-isoxazol-3-yl-methanone in 25 ml of pyridine are stirred with 184 mg of O-ethylhydroxylamine hydrochloride at 110° C. for 24 hours. The reaction mixture is concentrated and the residue is stirred with tert-butyl methyl ether and 0.5N hydrochloric acid. After concentration of the organic phase and purification over silica gel, the title compound is obtained.

reactant | (4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-isoxazol-3-yl-methanone | 486 mg | ClC1=C(OCCCOC2=CC=C(C=C2)C(=O)C2=NOC=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C22H17Cl4NO5
reactant | O-ethylhydroxylamine hydrochloride | 184 mg | Cl.C(C)ON
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | (4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-isoxazol-3-yl-methanone O-ethyl-oxime | C(C)ON=C(C1=NOC=C1)C1=CC=C(C=C1)OCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C24H22Cl4N2O5
